US08314094B2
4) Synthesis of 6-bromo-4-(hydroxymethyl)-1-(4-methoxybenzyl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one
6-Bromo-1-(4-methoxybenzyl)-4-(trifluoromethyl)-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (71.5 g, 0.161 mol) was dissolved in dichloromethane (200 mL) and methanol (200 mL), and the solution was cooled to 0° C. and stirred in an ozone atmospher for 2 hours. After the ozone atmospher was replaced by a nitrogen atmospher, sodium borohydride (12.2 g, 0.323 mol) was slowly added thereto at 0° C. After the reaction solution was stirred at 0° C. for 10 minutes, excess acetone was added thereto. After the solvent was evaporated under reduced pressure, the resulting residue was diluted with ethyl acetate, and 1 N hydrochloric acid was added until the pH of the aqueous layer reached about 6. The organic layer was separated and washed with water and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The resulting residue was crystallized from water and ethanol, whereby the objective compound (62.4 g, 87%) was obtained as a white solid.

reactant | 6-Bromo-1-(4-methoxybenzyl)-4-(trifluoromethyl)-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.161 mol, 71.5 g | BrC=1C=CC2=C(C(OC(N2CC2=CC=C(C=C2)OC)=O)(C=C)C(F)(F)F)C1 | C19H15BrF3NO3
reactant | ozone | O=[O+][O-] | O3
reactant | sodium borohydride | 0.323 mol, 12.2 g | [BH4-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | methanol | 200 mL | CO | CH4O
product | 6-bromo-4-(hydroxymethyl)-1-(4-methoxybenzyl)-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one | BrC=1C=CC2=C(C(OC(N2CC2=CC=C(C=C2)OC)=O)(C(F)(F)F)CO)C1 | C18H15BrF3NO4
